US09029391B2
4-[(3,4-Dimethylphenyl)(methyl)amino]-3-(hydroxymethyl)-2-methyl-1(2H)-isoquinolinone
To a stirred solution of methyl 4-[(3,4-dimethylphenyl)(methyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (2.11 g, 6.02 mmol) in toluene (12 mL) was added dropwise 2 M lithium borohydride/THF (3.06 mL, 6.11 mmol). The mixture was stirred at 70° C. for 6 hours, quenched with 1M HCl/water and partitioned between EtOAc and aq. NaHCO3. The organic phase was dried over sodium sulfate, evaporated in vacuo and purified on silica using EtOAc/hexanes 20-50% to provide the title compound as an off-white solid (0.94 g, 48%). 1H NMR (400 MHz, CDCl3) δ ppm 8.51 (br. s., 1 H), 7.57 (br. s., 2 H), 6.96 (br. s., 1 H), 6.44 (br. s., 2 H), 4.80-4.48 (m, 2 H), 3.80 (br. s., 3 H), 3.27 (br. s., 3 H), 2.16 (d, 11 H), 2.29-2.06 (m, 6 H); ES-LCMS: 323.4 (M+1); ES-LCMS: 323.4 (M+1).

reactant | methyl 4-[(3,4-dimethylphenyl)(methyl)amino]-2-methyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 6.02 mmol, 2.11 g | CC=1C=C(C=CC1C)N(C1=C(N(C(C2=CC=CC=C12)=O)C)C(=O)OC)C | C21H22N2O3
reactant | lithium borohydride THF | 6.11 mmol, 2 M, 3.06 mL | [BH4-].[Li+].C1CCOC1
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[(3,4-Dimethylphenyl)(methyl)amino]-3-(hydroxymethyl)-2-methyl-1(2H)-isoquinolinone | 0.94 g, 48% | CC=1C=C(C=CC1C)N(C1=C(N(C(C2=CC=CC=C12)=O)C)CO)C | C20H22N2O2
